US09255110B2
4-(4-Nitrophenyl)-1-butanol (2 g, 10.26 mmol) was added, dropwise, to a suspension of sodium hydride (60% dispersion in mineral oil, 0.49 g, 12.30 mmol) in anhydrous tetrahydrofuran and the resulting mixture was stirred at room temperature for 10 minutes. Methyl iodide (2 mL) was added and the resulting mixture was stirred for 62 hours. The reaction mixture was evaporated under reduced pressure; the residue was partitioned between dichloromethane and water. The organic layer was separated, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography (EtOAc/hexane, 1/1) to give 1.996 g of 1-(4-methoxy-butyl)-4-nitro-benzene as an oil.

reactant | 4-(4-Nitrophenyl)-1-butanol | 10.26 mmol, 2 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCCO | C10H13NO3
reactant | sodium hydride | 12.30 mmol, 0.49 g | [H-].[Na+]
reactant | Methyl iodide | 2 mL | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(4-methoxy-butyl)-4-nitro-benzene | 1.996 g | COCCCCC1=CC=C(C=C1)[N+](=O)[O-] | C11H15NO3
